US08003649B2
A mixture of 1-benzyl-3-methyl-piperazine and 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine was allowed to react by an analogous method to Example 339 to give 6-(4-benzyl-2-methylpiperazin-1-yl)-3-[chloro(difluoro)methyl][1,2,4]triazolo[4,3-b]pyridazine in 41% yield.

reactant | 1-benzyl-3-methyl-piperazine | C(C1=CC=CC=C1)N1CC(NCC1)C | C12H18N2
reactant | 6-chloro-3-[chloro(difluoro)methyl]-[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)Cl | C6H2Cl2F2N4
product | 6-(4-benzyl-2-methylpiperazin-1-yl)-3-[chloro(difluoro)methyl][1,2,4]triazolo[4,3-b]pyridazine | 41% yield | C(C1=CC=CC=C1)N1CC(N(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)Cl)C | C18H19ClF2N6
